US07947676B2
2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol
The procedure described in Example 1 was repeated using N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide (2.0 g, 8.96 mmol) and 3-methoxy-4-[(3-fluorobenzyl)oxy]aniline (2.67 g, 10.8 mmol) to give the title compound as a white solid (2.06 g, 54%); NMR Spectrum: 3.79 (t, 2H), 3.80 (s, 3H), 4.31 (t, 2H), 5.12 (s, 2H), 7.03 (d, 1H), 7.18 (m, 2H), 7.29 (m, 2H), 7.35 (d, 1H), 7.45 (q, 1H), 8.22 (s, 1H); Mass Spectrum: 426 (MH+).

reactant | N′-[4-cyano-3-(2-hydroxyethoxy)-1H-pyrazol-5-yl]-N,N-dimethylimidoformamide | 8.96 mmol, 2.0 g | C(#N)C=1C(=NNC1N=CN(C)C)OCCO | C9H13N5O2
reactant | 3-methoxy-4-[(3-fluorobenzyl)oxy]aniline | 10.8 mmol, 2.67 g | COC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C14H14FNO2
product | 2-{[4-({4-[(3-fluorobenzyl)oxy]-3-methoxyphenyl}amino)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]oxy}ethanol | 2.06 g, 54% | FC=1C=C(COC2=C(C=C(C=C2)NC2=C3C(=NC=N2)NN=C3OCCO)OC)C=CC1 | C21H20FN5O4
